US07696223B2
e) 4-Acetoxy-1-benzyl-3-bromo-7-cyano-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 4-acetoxy-1-benzyl-7-cyano-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (225 mg), NBS (116 mg) in MeCN (3 mL) in a closed vial was heated at 90° C. overnight. Then the solvent was removed, the residue was purified with column to give the desired product (232 mg). The title compound, ESI MS (m/z): 442 (M+H)+.

reactant | 4-acetoxy-1-benzyl-7-cyano-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 225 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CC2=CC=CC=C2)OC(C)=O | C20H17N3O4
reactant | NBS | 116 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 4-Acetoxy-1-benzyl-3-bromo-7-cyano-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 232 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Br)CC2=CC=CC=C2)OC(C)=O | C20H16BrN3O4
